US08026359B2
Step A: Preparation of 2-chloro-N-cyano-4-pyrimidinecarboximidamide
To an ice-cooled solution of 2-chloro-4-pyrimidinecarbonitrile (23 g, 0.16 mol) in toluene (500 mL) was added methanol (7.5 mL, 0.18 mol), followed by treatment with gaseous hydrogen chloride for 2 h. The HCl-saturated solution was sealed and stirred overnight at room temperature, and then the white solid was collected by filtration and washed with diethyl ether (200 mL) and ethyl acetate (200 mL). The solid was then dissolved in methanol (400 mL) and treated with ammonia solution (100 mL, 7 M in MeOH) at room temperature. After stirring 4 h, the solution was concentrated in vacuo and the residue washed with ethyl acetate (200 mL). The resulting crude solid was dissolved in a mixture of water (150 mL) and isopropanol (50 mL), and to this solution was added cyanamide (8.5 g, 0.2 mol), and sodium bicarbonate (9 g, 0.1 mol). The mixture was stirred at room temperature for 5 h, cooled to 0° C. and stirred for an additional 5 h. The resulting grey mixture was filtered, rinsed with water, and dried in vacuo for 24 h to give 13 g of the title compound as a white solid.

reactant | 2-chloro-4-pyrimidinecarbonitrile | 0.16 mol, 23 g | ClC1=NC=CC(=N1)C#N | C5H2ClN3
reactant | methanol | 0.18 mol, 7.5 mL | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
reactant | cyanamide | 0.2 mol, 8.5 g | N#CN | CH2N2
reactant | sodium bicarbonate | 0.1 mol, 9 g | C([O-])(O)=O.[Na+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-N-cyano-4-pyrimidinecarboximidamide | 13 g | ClC1=NC=CC(=N1)C(NC#N)=N | C6H4ClN5
